US03992273
Preparation of o-Chlorophenyl Methyl Phosphinic Acid
After dissolving 4.8 grams of o-iodochlorobenzene in 10 ml. of diethyl methylphosphonite, the resulting solution is irradiated for 3 hours. After concentration under reduced pressure and vacuum distillation, a colorless oil is produced having a boiling point from 96°-100° C. (0.05- 0.1 mm. Hg.). The product is combined with 25 ml. of 12M HCl, and the mixture is refluxed for 2 hours. The solution is concentrated to leave a thick oil which crystallizes upon trituration with ether. Upon recrystallization from acetone-ether, 0.5 grams of the solid is collected having a melting point of 97°-98° C.

reactant | o-iodochlorobenzene | 4.8 grams | IC1=C(C=CC=C1)Cl | C6H4ClI
reactant | diethyl methylphosphonite | CP(OCC)OCC | C5H13O2P
reactant | HCl | 12M | Cl | ClH
product | o-Chlorophenyl Methyl Phosphinic Acid | ClC1=C(C=CC=C1)P(O)(=O)C | C7H8ClO2P
